US04698337
A solution of 2-(2-formamidothiazol-4-yl)-2-carbamoylmethoxyiminoacetic acid (syn isomer, 1.35 g.), N,N-dimethylformamide (0.814 g.) and phosphoryl chloride (1.71 g.) in tetrahydrofuran (13.4 ml.) and a solution of 7-amino-3-(1-n-hexyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (1.95 g.) in 50% aqueous acetone (20 ml.) were treated in a similar manner to that of Example 9-(1) to give 7-[2-(2-formamidothiazol-4-yl)-2-cyanomethoxyiminoacetamido]-3-(1-n-hexyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 1.2 g.).

reactant | 2-(2-formamidothiazol-4-yl)-2-carbamoylmethoxyiminoacetic acid | 1.35 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOCC(N)=O | C8H8N4O5S
reactant | N,N-dimethylformamide | 0.814 g | CN(C=O)C | C3H7NO
reactant | phosphoryl chloride | 1.71 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 7-amino-3-(1-n-hexyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.95 g | NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CCCCCC)C(=O)O)C1=O | C15H22N6O3S2
solvent | tetrahydrofuran | 13.4 ml | O1CCCC1 | C4H8O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 7-[2-(2-formamidothiazol-4-yl)-2-cyanomethoxyiminoacetamido]-3-(1-n-hexyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.2 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CCCCCC)C(=O)O)C1=O)=NOCC#N | C23H26N10O6S3
